US06822100B2
Sodium cyanoborohydride (51 mg, 0.792 mmol, 3 equiv) was added to a stirred mixture of trans-3-(2-acetyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile (100 mg, 0.264 mmol), dimethylamine (2.0 M in THF, 2.64 ml, 5.28 mmol, 20 equiv), acetic acid (302 uL, 5.28 mmol, 20 equiv) and powdered 4 A molecular sieves (150 mg, actived) in 2-propanol (2.0 ml). The resulting mixture was stirred at 50° C. for 20 h. Ethanol (5 ml), water (0.5 ml), and a solution of sodium hydroxide (10 M in water, 0.6 ml) were added to the reaction. The mixture was heated with stirring at 50° C. for 1 h. The reaction contents were poured into an aqueous solution of sodium hydroxide (1 M, 25 ml) and brine (25 ml). The aqueous layer was extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine (20 ml), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified using silica gel column chromatography (90:10:1, CHCl3/MeOH/Et3N) to provide 67 mg (100% yield) of 3-[2-(1-dimethylamino-ethyl)-cyclopropyl]-1H-indole-5-carbonitrile as a 1:1 mixture of diastereomers. viscous oil: LC-MS (column=Phenomenex Luna C18 S10, 3×50 mm, start % B=0, final % B=100, gradient time=3 min, flow rate=4 ml/min) m/e 254 (M+H)+, tR 1.19 min.

reactant | Sodium cyanoborohydride | 0.792 mmol, 51 mg, 3 equiv | C(#N)[BH3-].[Na+]
reactant | trans-3-(2-acetyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 0.264 mmol, 100 mg | C(C)(=O)[C@H]1[C@@H](C1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O3S
reactant | dimethylamine | 5.28 mmol, 2.0 M, 2.64 ml, 20 equiv | CNC | C2H7N
reactant | acetic acid | 5.28 mmol, 302 uL, 20 equiv | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 10 M, 0.6 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1 M, 25 ml | [OH-].[Na+]
solvent | 2-propanol | 2.0 ml | CC(C)O | C3H8O
solvent | brine | 25 ml | [Cl-].[Na+].O
solvent | water | 0.5 ml | O | H2O
solvent | Ethanol | 5 ml | C(C)O | C2H6O
product | 3-[2-(1-dimethylamino-ethyl)-cyclopropyl]-1H-indole-5-carbonitrile | 67 mg, 100% yield | CN(C(C)C1C(C1)C1=CNC2=CC=C(C=C12)C#N)C | C16H19N3
